US05225409
4-METHYL-7-(4-AMINOBUTYL)2,3-DIHYDRO 3-OXO 1,4-BENZOXAZINE (HYDROCHLORIDE)
In a 250 cm3 ground-necked flask, 8.1 g (0.03 mol) of 4-methyl-6-(4-bromobutyl)2,3-dihydro-3-oxo-1,4-benzoxazine and 0.9 g of potassium iodide are dissolved in 120 cm3 of methanol and 30 cm3 of chloroform. A stream of gaseous ammonia is bubbled into the solution to the point of saturation, equivalent to approximately 2.6 g of ammonia, and a reflux condenser is then fitted. The temperature is stabilized at 50° C. with an oil bath and the mixture is left stirring magnetically for 72 hours. After cooling, the reaction mixture is evaporated on a water bath under vacuum. The residue is ground with distilled water acidified with 5% HCl solution, and then drained. The filtrate is recovered, washed with ethyl acetate and then alkalinized with 10% sodium hydroxide solution. It is extracted with chloroform, leaving the 2 phases agitating for 1/2 hour, and the organic phase is washed with distilled water and then dried over calcium chloride. The organic phase is evaporated on a water bath under vacuum, the residue is then taken up in absolute ethanol, a stream of gaseous HCl is bubbled through and the mixture is then evaporated to dryness on a water bath under vacuum. The product is dried and then recrystallized in absolute ethanol.

reactant | 4-methyl-6-(4-bromobutyl)2,3-dihydro-3-oxo-1,4-benzoxazine | 0.03 mol, 8.1 g | CN1C(COC2=C1C=C(C=C2)CCCCBr)=O | C13H16BrNO2
reactant | potassium iodide | 0.9 g | [I-].[K+]
solvent | methanol | 120 cm3 | CO | CH4O
solvent | chloroform | 30 cm3 | C(Cl)(Cl)Cl | CHCl3
product | 4-METHYL-7-(4-AMINOBUTYL)2,3-DIHYDRO 3-OXO 1,4-BENZOXAZINE | CN1C(COC2=C1C=CC(=C2)CCCCN)=O | C13H18N2O2
